US03994905
A solution of 415 g. of crude p-nitrophenyl isocyanate in 4.5 l. of toluene was stirred at room temperature. The mixture was filtered and 35 g. of insoluble impurity removed. The material in solution was 380 g. (2.32 mol) of purified p-nitrophenyl isocyanate. The solution was stirred under dry nitrogen, and 3-(aminomethyl)pyridine (250 g., 2.32 mol) was added dropwise. An exotherm to 40° C. was noted. The resulting thick suspension was stirred overnight and then vacuum filtered. The product was washed with hexane and dried in a vacuum oven at 60° C. overnight to give 610.7 g. melting at 220°-221.5° C. The product was a 98% yield of 1-(3-pyridylmethyl)-3-(4-nitrophenyl)urea. This product after recrystallization from 2-methoxyethanol melted with decomposition at 223°-225° C.

reactant | p-nitrophenyl isocyanate | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | p-nitrophenyl isocyanate | 2.32 mol | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | 3-(aminomethyl)pyridine | 2.32 mol, 250 g | NCC=1C=NC=CC1 | C6H8N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3-pyridylmethyl)-3-(4-nitrophenyl)urea | 98% yield | N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N4O3
